US04051248
B. 1-Phenyl-8-[(1,2,3,4-tetrahydro-7-methoxy-1-oxo-2-naphthalenyl)methyl]-1,3,8-triazaspiro[4.5]decan-4-one
A mixture of 15.0 g of 2-[(dimethylamino)methyl]-3,4-dihydro-7-methoxy-1(2H)-naphthalenone, hydrochloride (1:1), 13.0 g of 1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one, and 250 ml of absolute ethanol is heated on a steam bath until all solids dissolve. The resulting solution is stirred for 16 hours at room temperature under nitrogen. The resulting precipitates are collected and washed with additional absolute ethanol to give 16.7 g of the title compound.

reactant | 2-[(dimethylamino)methyl]-3,4-dihydro-7-methoxy-1(2H)-naphthalenone, hydrochloride | 15.0 g | Cl.CN(C)CC1C(C2=CC(=CC=C2CC1)OC)=O
reactant | 1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one | 13.0 g | C1(=CC=CC=C1)N1CNC(C12CCNCC2)=O | C13H17N3O
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 1-Phenyl-8-[(1,2,3,4-tetrahydro-7-methoxy-1-oxo-2-naphthalenyl)methyl]-1,3,8-triazaspiro[4.5]decan-4-one | 16.7 g | C1(=CC=CC=C1)N1CNC(C12CCN(CC2)CC2C(C1=CC(=CC=C1CC2)OC)=O)=O | C25H29N3O3
